US09334263B2
To a solution of tert-butyl 4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazine-1-carboxylate (150 mg, 0.46 mmol) in dioxane (3 mL) was added 4 M HCl-dioxane (3 mL), and the reaction mixture was stirred room temperature for 1 hour. LCMS showed the reaction was completed. The reaction mixture was concentrated to afford 5-(cyclopropylethynyl)-2-(piperazin-1-yl)pyrimidine HCl salt as a white solid (100 mg, crude), which was directly used in the next step without further purification. MS (ES+) C13H16N4 requires: 228, found: 229 [M+H]+.

reactant | tert-butyl 4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazine-1-carboxylate | 0.46 mmol, 150 mg | C1(CC1)C#CC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O2
reactant | HCl dioxane | 4 M, 3 mL | Cl.O1CCOCC1
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-(cyclopropylethynyl)-2-(piperazin-1-yl)pyrimidine HCl salt | Cl.C1(CC1)C#CC=1C=NC(=NC1)N1CCNCC1 | InChI=1S/C13H16N4.ClH/c1-2-11(1)3-4-12-9-15-13(16-10-12)17-7-5-14-6-8-17;/h9-11,14H,1-2,5-8H2;1H
